US07291635B2
Onto zinc foil (99.9% Aldrich 35, 602-6, 775 mg, 11.85 mmol) cut in small pieces is added DMF (freshly distilled from CaH2 under argon, 4.5 mL) and 1,2-dibromoethane (0.033 mL, 0.38 mmol) under argon. The mixture is heated at 50° C. for 10 min, then allowed to cool and trimethylsilyl chloride (0.19 mL, 0.153 mmol) is added. The reaction is stirred for 25 min and a solution of (R)-2-t-butoxycarbonylamino-3-iodo-propionic acid benzyl ester (Fluka, 2.18 g, 5.37 mmol) in DMF (10 mL) is added. After 15 min, the mixture is decanted into a solution of the title A compound, 5-(4-iodo-phenyl)-2-(4-methoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (1.75 g, 3.82 mmol), tri-o-tolylphosphine (232.5 mg, 0.764 mmol) and tris(dibenzylideneacetone)-dipalladium(0) (175 mg, 0.191 mmol) in DMF (13 mL). After stirring for 1.5 h, the resulting reaction mixture is poured onto a mixture of saturated aqueous ammonium chloride (200 mL) and water (200 mL) and extracted with EtOAc (2×250 mL). The organic solution is washed with water (1×200 mL) and brine (1×200 mL), then filtered through celite to removed a strong gray precipitate. The filtrate is dried over anhydrous Na2SO4, filtered and concentrated to give a dark red brown oil. This is chromatographed on a 110 g silica gel RediSep column (Isco, Inc.) with a 30 mL/min gradient elution of 0:100 (EtOAc:CH2Cl2) to 10:90 over 25 min. Fractions containing product are combined and concentrated to yield (S)-2-t-butoxycarbonylamino-3-(4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid benzyl ester as a white solid after tritruration with Et2O: [M+NH4]+=627.0, [M−HCO2]−=654.1.

reactant | 1,2-dibromoethane | 0.38 mmol, 0.033 mL | BrCCBr | C2H4Br2
reactant | trimethylsilyl chloride | 0.153 mmol, 0.19 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | (R)-2-t-butoxycarbonylamino-3-iodo-propionic acid benzyl ester | 5.37 mmol, 2.18 g | C(C1=CC=CC=C1)OC([C@H](CI)NC(=O)OC(C)(C)C)=O | C15H20INO4
reactant | 5-(4-iodo-phenyl)-2-(4-methoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 3.82 mmol, 1.75 g | IC1=CC=C(C=C1)N1CC(N(S1(=O)=O)CC1=CC=C(C=C1)OC)=O | C16H15IN2O4S
reactant | tri-o-tolylphosphine | 0.764 mmol, 232.5 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.191 mmol, 175 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 200 mL | O | H2O
product | (S)-2-t-butoxycarbonylamino-3-(4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid benzyl ester | C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)NC(=O)OC(C)(C)C)=O | C31H35N3O8S
